US08975254B2
b) N—((S)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1-hydroxyethyl)oxazole-4-carboxamide
Sodium borohydride (0.019 g, 0.498 mmol) was added into a flask and the atmosphere was replaced with nitrogen. Dry ethanol was added and the reaction mixture was cooled to 0° C. (S)-2-acetyl-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)oxazole-4-carboxamide (0.099 g, 0 0.249 mmol) was added and the reaction mixture was warmed slowly to RT while stirring overnight. The crude product was cooled to 0° C., the pH was adjusted to 6 and the mixture was evaporated. 5% of DCM/MeOH was added and the crude product was washed with 1M NaHCO3, water and dried. Yield 89%. 1H-NMR (400 MHz; CDCl3): δ 1.22 (d, 3H), 1.63 (d, 3H), 2.51 (s, 1H), 4.25-4.31 (m, 1H), 4.41 (dd, 1H), 4.54-4.63 (m, 1H), 5.00 (q, 1H), 6.61 (d, 1H), 7.49 (d, 1H), 7.68 (d, 1H), 7.70 (d, 1H), 7.86-7.89 (m, 1H), 7.95-7.96 (m, 1H), 8.15 (s, 1H).

reactant | Sodium borohydride | 0.498 mmol, 0.019 g | [BH4-].[Na+]
reactant | (S)-2-acetyl-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)oxazole-4-carboxamide | 0.249 mmol, 0.099 g | C(C)(=O)C=1OC=C(N1)C(=O)N[C@H](CN1N=C(C=C1)C1=CC(=C(C=C1)C#N)Cl)C | C19H16ClN5O3
solvent | ethanol | C(C)O | C2H6O
product | N—((S)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1-hydroxyethyl)oxazole-4-carboxamide | Yield 89% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(OC1)C(C)O | C19H18ClN5O3
